US05763450
A suspension of 66 g of 2-chloro-4-iodo-benzoic acid (I.G.Farbenind. D.R.P. 565411 1930) in 690 ml of benzene is treated at 4° C. with 20.56 ml of thionyl chloride and 0.1 ml of dimethylformamide and the mixture is boiled at reflux under argon for 21 hrs. The reaction mixture is concentrated. Distillation of the residue at 160°/60 Pa yields 51.9 g (74%) of 2-chloro-4-iodo-benzoyl chloride as a colourless liquid.

reactant | 2-chloro-4-iodo-benzoic acid | 66 g | ClC1=C(C(=O)O)C=CC(=C1)I | C7H4ClIO2
reactant | thionyl chloride | 20.56 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | benzene | 690 ml | C1=CC=CC=C1 | C6H6
product | 2-chloro-4-iodo-benzoyl chloride | 51.9 g, 74% | ClC1=C(C(=O)Cl)C=CC(=C1)I | C7H3Cl2IO
